US07776869B2
Step 3: Preparation of (S)-tert-butyl 1-(2-(2-fluoro-5-iodobenzamido)-4-(trifluoromethyl)phenyl)piperidin-3-yl(methyl)carbamate
In a vial, (S)-tert-butyl 1-(2-amino-4-(trifluoromethyl)phenyl)piperidin-3-yl(methyl)carbamate (0.500 g, 1.3 mmol) was taken up in CH2Cl2. The solution was cooled to 0 deg. C. and Triethylamine (0.24 ml, 1.7 mmol) and 2-fluoro-5-iodobenzoyl chloride (0.42 g, 1.5 mmol) were added. The tube was sealed and the reaction stirred for 2 h. The reaction mixture was poured into EtOAc/1N NaOH. The organic layer was dried over anhydrous sodium sulfate and concentrated in vacuo. The resulting off-white-foam (S)-tert-butyl 1-(2-(2-fluoro-5-iodobenzamido)-4-(trifluoromethyl)phenyl)piperidin-3-yl(methyl)carbamate was used without further purification. MS m/z=622 [M+H]+. Calc'd for C25H28F4IN3O3: 621.

reactant | (S)-tert-butyl 1-(2-amino-4-(trifluoromethyl)phenyl)piperidin-3-yl(methyl)carbamate | 1.3 mmol, 0.500 g | NC1=C(C=CC(=C1)C(F)(F)F)N1C[C@H](CCC1)N(C(OC(C)(C)C)=O)C | C18H26F3N3O2
reactant | Triethylamine | 1.7 mmol, 0.24 ml | C(C)N(CC)CC | C6H15N
reactant | 2-fluoro-5-iodobenzoyl chloride | 1.5 mmol, 0.42 g | FC1=C(C(=O)Cl)C=C(C=C1)I | C7H3ClFIO
reactant | EtOAc | 1N | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (S)-tert-butyl 1-(2-(2-fluoro-5-iodobenzamido)-4-(trifluoromethyl)phenyl)piperidin-3-yl(methyl)carbamate | FC1=C(C(=O)NC2=C(C=CC(=C2)C(F)(F)F)N2C[C@H](CCC2)N(C(OC(C)(C)C)=O)C)C=C(C=C1)I | C25H28F4IN3O3
